US08865752B2
A solution of N-(4-(2-ethyl-1-hydroxybutyl)phenyl)acetamide (690 mg, 2.93 mmol) in acetonitrile (22 mL) was treated with carbonyldiimidazole (618 mg, 3.81 mmol) and stirred at RT over the weekend. The solution was concentrated in vacuo and the residue was partitioned between water and ethyl acetate. The organic extract was dried over MaSO4, filtered and then concentrated. The crude product was purified by preparative TLC using 5 MeOH in DCM as eluent to afford to N-(4-(2-ethyl-1-(1H-imidazol-1-yl)butyl)phenyl)acetamide as white solid. MS (ES+): m/z 286.30 (MH+).

reactant | N-(4-(2-ethyl-1-hydroxybutyl)phenyl)acetamide | 2.93 mmol, 690 mg | C(C)C(C(O)C1=CC=C(C=C1)NC(C)=O)CC | C14H21NO2
reactant | carbonyldiimidazole | 3.81 mmol, 618 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 22 mL | C(C)#N | C2H3N
product | N-(4-(2-ethyl-1-(1H-imidazol-1-yl)butyl)phenyl)acetamide | C(C)C(C(N1C=NC=C1)C1=CC=C(C=C1)NC(C)=O)CC | C17H23N3O
